US04468517
4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride
To a 100 ml. flask were added 2.1 g. of 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline and 25 ml. of 1,2-dichloroethane. To the mixture was added dropwise a solution of 2.1 g. of phosphorous pentachloride and 50 ml. of 1,2-dichloroethane, while the temperature of the mixture was held in the range 17°-25°. After the addition, the mixture was stirred for 16 hours. It was then filtered, and the filter cake was washed with 1,2-dichloroethane and dried under vacuum at 50° to obtain 2.4 g. of the desired product, which was identified by nmr analysis as being substantially identical to the product of Example 5.

reactant | 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline | ClCC1(N=C(SC1)CN(C)C)O | C7H13ClN2OS
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)CN(C)C | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
